US09260427B2
Prepared using General Procedure 10: A mixture of tert-butyl (S)-3-(4-(5-bromo-4-methoxypyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoate (18.0 mg, 0.031 mmol), (4-(heptyloxy)phenyl)boronic acid (10.0 mg, 0.042 mmol) and sodium carbonate (8.97 mg, 0.084 mmol) in acetonitrile (0.80 mL), THF (0.80 mL) and H2O (0.40 mL) was degassed for 10 min. Pd(dppf)Cl2:CH2Cl2 (3.09 mg, 0.003 mmol) was added and the reaction mixture heated at 110° C. in a microwave for 30 min. Once cooled, the reaction was diluted with NaHCO3 (5 mL) and extracted with EA (3×5 mL). The combined organics were dried over MgSO4 and concentrated. The residue was purified by column chromatography (EA:hexanes) to afford 20.0 mg (60%) of tert-butyl (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)-4-methoxypyrimidin-2-yl)phenyl)propanoate as pale yellow solid. LCMS-ESI (m/z) calculated for C42H53N3O5: 679.8; no ion observed, tR=13.83 min. (Method 2).

reactant | tert-butyl (S)-3-(4-(5-bromo-4-methoxypyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoate | 0.031 mmol, 18.0 mg | BrC=1C(=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)C(C)(C)C)=O)OC | C29H34BrN3O4
reactant | (4-(heptyloxy)phenyl)boronic acid | 0.042 mmol, 10.0 mg | C(CCCCCC)OC1=CC=C(C=C1)B(O)O | C13H21BO3
reactant | sodium carbonate | 0.084 mmol, 8.97 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH2Cl2 | 0.003 mmol, 3.09 mg | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 0.80 mL | C(C)#N | C2H3N
solvent | THF | 0.80 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.40 mL | O | H2O
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)-4-methoxypyrimidin-2-yl)phenyl)propanoate | 20.0 mg, 60% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C(=N2)OC)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C42H53N3O5
